* PySpice Studio Netlist

.Model Dx diode (Is=14n Rs=0 N=1)
.Model Tx_pnp PNP (BF=300)
.Model Tx NPN (BF=300)

R1 1 2 1k
R2 3 4 1k
C1 5 6 1u ic=0
R3 7 8 1k
T3 10 9 11 Tx
C2 12 13 1u ic=0
C3 OUT 15 1u ic=0
R4 16 17 1k
D1 18 OUT Dx
V1 20 21 DC 5
Q1 23 22 24 Tx_pnp
Q2 26 25 27 Tx
V1 30 31 PULSE(0 5 10m 1n 1n 10m 20m)

.op
.control
run
set color0 = white
set color1 = black
set xbrushwidth = 2
.endc
.end